US06916828B2
(R)-3-(N-benzyl-N-phenylcarbamoyloxy)-1-methylquinuclidinium iodide
A solution of 300 mg (0.89 mmol) of N-benzyl-N-phenylcarbamate of (R)-3-quinuclidyl (Example 2) and 60 μL of methyl iodide (0.98 mmol) in 9 mL of acetone was refluxed for 2 h. The reaction crude was allowed to cool down at room temperature and the solvent was distilled off under reduced pressure. The obtained solid was broken off with diethyl ether and dried at vacuum at 40° C. to give 480 mg (0.89 mmol) of a hygroscopic white solid corresponding to the title compound. IR (film, cm−1): 1690.

reactant | N-benzyl-N-phenylcarbamate | 0.89 mmol, 300 mg | C(C1=CC=CC=C1)N(C([O-])=O)C1=CC=CC=C1
reactant | methyl iodide | 0.98 mmol, 60 μL | CI | CH3I
reactant | acetone | 9 mL | CC(=O)C | C3H6O
product | (R)-3-(N-benzyl-N-phenylcarbamoyloxy)-1-methylquinuclidinium iodide | [I-].C(C1=CC=CC=C1)N(C(=O)O[C@H]1C[N+]2(CCC1CC2)C)C2=CC=CC=C2 | InChI=1S/C22H27N2O2.HI/c1-24-14-12-19(13-15-24)21(17-24)26-22(25)23(20-10-6-3-7-11-20)16-18-8-4-2-5-9-18;/h2-11,19,21H,12-17H2,1H3;1H/q+1;/p-1/t19?,21-,24?;/m0./s1
